US07696223B2
g) {[2,3-Dichloro-7-cyano-4-hydroxy-1-(3-methyl-butyl)-1H-pyrrolo[2,3-c]pyridine-5-carbonyl]-amino}-acetic acid
7-Cyano-2,3-dichloro-4-hydroxy-1-(3-methyl-butyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester (80 mg, 0.22 mmol) and glycine (324 mg, 4.32 mmol) were suspended in 8.64 mL of 0.5 N sodium methoxide in methanol. The reaction was heated at reflux temperature overnight, cooled, and concentrated. The residue was dissolved in water (15 mL), and the solution was acidified to pH 1-2 with 1 N hydrochloric acid. The title compound (60 mg) was collected by filtration as a light yellow solid. MS: (+) m/z 399.2 (M+1).

reactant | 7-Cyano-2,3-dichloro-4-hydroxy-1-(3-methyl-butyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid ethyl ester | 0.22 mmol, 80 mg | C(C)OC(=O)C=1C(=C2C(=C(N1)C#N)N(C(=C2Cl)Cl)CCC(C)C)O | C16H17Cl2N3O3
reactant | glycine | 4.32 mmol, 324 mg | NCC(=O)O | C2H5NO2
solvent | sodium methoxide | 0.5 N, 8.64 mL | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | {[2,3-Dichloro-7-cyano-4-hydroxy-1-(3-methyl-butyl)-1H-pyrrolo[2,3-c]pyridine-5-carbonyl]-amino}-acetic acid | ClC1=C(C=2C(=C(N=C(C2O)C(=O)NCC(=O)O)C#N)N1CCC(C)C)Cl | C16H16Cl2N4O4
